US07592357B2
Step 1. 2-Fluoro-5-hydroxybenzaldehyde
BBr3 (4 mL, 4 mmol, 1.0 M in heptane) was added dropwise to a solution of 2-fluoro-5-(methyloxy)benzaldehyde in CH2Cl2 at −78° C. The reaction mixture was stirred at −78° C. for 1 hour, slowly warmed to 0° C. and stirred for 2 hours. The reaction mixture was poured into water, extracted with EtOAc (3×10 mL). The extracts were combined, washed with water, brine, and dried (Na2SO4). The solvent was evaporated, and the residue was purified on silica gel, using 0-20% EtOAc-Hexane to give the desired product (142 mg, 25%) as a white solid. MS m/z 141 [M+H]+

reactant | BBr3 | 4 mmol, 1.0 M, 4 mL | B(Br)(Br)Br | BBr3
reactant | 2-fluoro-5-(methyloxy)benzaldehyde | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-hydroxybenzaldehyde | 142 mg, 25% | FC1=C(C=O)C=C(C=C1)O | C7H5FO2
